US06753331B1
The requisite 1-(1-benzenesulphonyl-5-chloroindol-2-ylsulphonyl)piperazine starting material was prepared as follows. A solution of 1-benzenesulphonyl-5-chloroindol-2-ylsulphonyl chloride (10.0 g, 25.6 mmol) in dichloromethane (100 ml) was added dropwise to a stirred solution of piperazine (13.23 g, 6 eq.) in dichloromethane (200 ml), and the mixture stirred for a further 2 hrs. The reaction mixture was then washed with water (3×200 ml), dried (Phase-Separating paper) and evaporated to give a red oil which was purified by flash chromatography using Merck silica (Art. 9385), eluting with dichloromethane containing methanol (0-6%), to give 1-(1-benzene sulphonyl-5-chloroindol-2-ylsulphonyl)piperazine as a colourless solid, 1H NMR (CDCl3) 2.95 ppm (m, 4H), 3.4 ppm (m, 4H), 7.4 ppm (m, 4H), 7.55 ppm (m, 2H), 8.0 ppm (d, 2H), 8.0 ppm (d, 1H); MS (M+H)+ 440/442.

reactant | 1-benzenesulphonyl-5-chloroindol-2-ylsulphonyl chloride | 25.6 mmol, 10.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC(=CC=C12)Cl)S(=O)(=O)Cl | C14H9Cl2NO4S2
reactant | piperazine | 13.23 g, 6 eq. | N1CCNCC1 | C4H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-(1-benzene sulphonyl-5-chloroindol-2-ylsulphonyl)piperazine | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC(=CC=C12)Cl)S(=O)(=O)N1CCNCC1 | C18H18ClN3O4S2
